US06528510B1
4-(6-tert-Butyl-5-mercapto-2,3-dihydro-indole-1-sulfonyl)-benzonitrile
The title compound was prepared according to the General Method 14b using 4-(6-tert-butyl-5-thiocyanato-2,3-dihydro-indole-1-sulfonyl)-benzonitrile (prepared in Example MM; 6.0 g, 15 mmol), sodium hydrogen sulfide (2.53 g, 45.3 mmol), sodium borohydride (3.43 g, 90.7 mmol), MeOH (10 mL), water (5 mL), and AcOH (5 mL). The crude product was used further without any purification.

reactant | 4-(6-tert-butyl-5-thiocyanato-2,3-dihydro-indole-1-sulfonyl)-benzonitrile | 15 mmol, 6.0 g | C(C)(C)(C)C1=C(C=C2CCN(C2=C1)S(=O)(=O)C1=CC=C(C#N)C=C1)SC#N | C20H19N3O2S2
reactant | sodium hydrogen sulfide | 45.3 mmol, 2.53 g | S.[Na]
reactant | sodium borohydride | 90.7 mmol, 3.43 g | [BH4-].[Na+]
reactant | MeOH | 10 mL | CO | CH4O
solvent | AcOH | 5 mL | CC(=O)O | C2H4O2
solvent | water | 5 mL | O | H2O
product | 4-(6-tert-Butyl-5-mercapto-2,3-dihydro-indole-1-sulfonyl)-benzonitrile | C(C)(C)(C)C1=C(C=C2CCN(C2=C1)S(=O)(=O)C1=CC=C(C#N)C=C1)S | C19H20N2O2S2
